US07732477B2
Methyl5-trifluoromethyl-1-benzothiophene-2-carboxylate
Using 4.28 g (22.3 mmol) of 2-fluoro-5-trifluoromethylbenzaldehyde, 1.34 g (33.4 mmol) of sodium hydride (60% pure) and 2.6 g (24.5 mmol) of methyl mercaptoacetate, 4.93 g (80.0% of theory) of the title compound are obtained.

reactant | 2-fluoro-5-trifluoromethylbenzaldehyde | 22.3 mmol, 4.28 g | FC1=C(C=O)C=C(C=C1)C(F)(F)F | C8H4F4O
reactant | sodium hydride | 33.4 mmol, 1.34 g | [H-].[Na+]
reactant | methyl mercaptoacetate | 24.5 mmol, 2.6 g | SCC(=O)OC | C3H6O2S
product | Methyl5-trifluoromethyl-1-benzothiophene-2-carboxylate | COC(=O)C=1SC2=C(C1)C=C(C=C2)C(F)(F)F | C11H7F3O2S
